US08222266B2
Preparation 51: 1-(4-chlorobutyl)-5-phenyl-2(1H)-pyrimidinone (Prep51)
To a suspension of 5-phenyl-2(1H)-pyrimidinone (77 mg, 0.45 mmol, Aurora Screening Library or MDPI Product List or ref Helv. Chim. Acta, 10, 1927, 305//Collect. Czech. Chem. Commun., 61, 3, 1996, 458-477) in dry dichloromethane (4.0 ml), triethylamine (0.062 ml, 0.45 mmol) was added. The reaction mixture was stirred at room temperature for 30′, then 1-bromo-4-chlorobutane (0.052 ml, 0.44 mmol) was added and the reaction mixture was then heated at 40° C. for 24 hours and other 24 hours at 60° C. Water (22 ml) was added to the cold mixture and the organic layers were extracted with DCM (3×10 ml). The organic layers were combined and dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by column chromatography on silica gel eluting with DCM/methanol 96/4 to afford the title compound (60 mg, 51%).

reactant | 5-phenyl-2(1H)-pyrimidinone | 0.45 mmol, 77 mg | C1(=CC=CC=C1)C=1C=NC(NC1)=O | C10H8N2O
reactant | triethylamine | 0.45 mmol, 0.062 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-4-chlorobutane | 0.44 mmol, 0.052 ml | BrCCCCCl | C4H8BrCl
reactant | Water | 22 ml | O | H2O
solvent | dichloromethane | 4.0 ml | ClCCl | CH2Cl2
product | 1-(4-chlorobutyl)-5-phenyl-2(1H)-pyrimidinone | 60 mg, 51% | ClCCCCN1C(N=CC(=C1)C1=CC=CC=C1)=O | C14H15ClN2O
